// Point Netlist Generated on: Jun 15 15:50:17 2026
// Generated for: spectre
// Design Netlist Generated on: Jun 15 15:50:17 2026
// Design library name: Test_FinFET
// Design cell name: NMOS_L18nm_PDK_Id_wrt_Vds
// Design view name: schematic
simulator lang=spectre
global 0
parameters temperature=27 Vds=0.4 Vgs=0.45
include "/opt/designKits/research/04_FinFET_Cadence/cds_ff_mpt_v_1.1/cds_ff_mpt/../models/spectre/cds_ff_mpt.scs" section=tt

// Library name: Test_FinFET
// Cell name: NMOS_L18nm_PDK_Id_wrt_Vds
// View name: schematic
V1 (Vds 0) vsource dc=Vds type=dc
V0 (Vgs 0) vsource dc=Vgs type=dc
NM1 (Vds Vgs 0 0) cds_ff_mpt_n1hvt l=18.0n nfin=1 nf=1 m=1 ngcon=1 \
        asej=4.128e-15 adej=4.128e-15 psej=2.2e-07 pdej=2.2e-07 lrsd=86.0n
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=Vds start=0 stop=0.8 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Vds NM1:d 
// saveOptions options save=all pwr=all currents=all saveahdlvars=all
